US07094792B2
Step b—Preparation of Methyl (2{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-5-yl)acetate
N-(aminocarbonothioyl)-3-chloro-2-methylbenzenesulfonamide (0.4 g, 1.5 mmol) and methyl 3-bromo-4-oxobutanoate (0.3 g, 1.5 mmol), dissolved in pyridine (5 mL), were irradiated in a microwave oven for 2.5 min at 130° C. The solvent was removed under reduced pressure and the product separated from the starting materials using preparative HPLC (yield 0.2 g, 30%).

reactant | N-(aminocarbonothioyl)-3-chloro-2-methylbenzenesulfonamide | 1.5 mmol, 0.4 g | NC(=S)NS(=O)(=O)C1=C(C(=CC=C1)Cl)C | C8H9ClN2O2S2
reactant | methyl 3-bromo-4-oxobutanoate | 1.5 mmol, 0.3 g | BrC(CC(=O)OC)C=O | C5H7BrO3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Methyl (2{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-5-yl)acetate | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC(=CN1)CC(=O)OC)C | C13H13ClN2O4S2
